US08044070B2
Production of 2-(1-cyclopentylpiperidin-4-yloxy)-5-(4-cyanophenyl)pyrazine
According to the same method as in Example 1-2), 3), 4) but using 2-(1-t-butoxycabonylpiperidin-4-yloxy)-5-bromopyrazine and 4-cyanophenylboronic acid, the entitled compound was obtained.

reactant | 2-(1-t-butoxycabonylpiperidin-4-yloxy)-5-bromopyrazine | C(C)(C)(C)OC(=O)N1CCC(CC1)OC1=NC=C(N=C1)Br | C14H20BrN3O3
reactant | 4-cyanophenylboronic acid | C(#N)C1=CC=C(C=C1)B(O)O | C7H6BNO2
product | 2-(1-cyclopentylpiperidin-4-yloxy)-5-(4-cyanophenyl)pyrazine | C1(CCCC1)N1CCC(CC1)OC1=NC=C(N=C1)C1=CC=C(C=C1)C#N | C21H24N4O
